US07125901B2
A mixture of 2-(acetylamino)-N-(4-aminophenyl)-1,3-thiazole-4-carboxamide hydrochloride (70 mg), cyanamide (11 mg) and 2-methoxyethanol (2 ml) was stirred at 100° C. for 72 hours. The reaction mixture was concentrated in vacuo. To the residue was added ethyl acetate (5 ml) and saturated aqueous sodium hydrogen bicarbonate (5 ml). The precipitated solid was filtered and washed with ethyl acetate and water to give 2-(acetylamino)-N-(4-{[amino(imino)methyl]amino}phenyl)-1,3-thiazole-4-carboxamide (45 mg).

reactant | 2-(acetylamino)-N-(4-aminophenyl)-1,3-thiazole-4-carboxamide hydrochloride | 70 mg | Cl.C(C)(=O)NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)N
reactant | cyanamide | 11 mg | N#CN | CH2N2
solvent | 2-methoxyethanol | 2 ml | COCCO | C3H8O2
product | 2-(acetylamino)-N-(4-{[amino(imino)methyl]amino}phenyl)-1,3-thiazole-4-carboxamide | 45 mg | C(C)(=O)NC=1SC=C(N1)C(=O)NC1=CC=C(C=C1)NC(=N)N | C13H14N6O2S
